US06960474B2
2a(2) (3.41 g, 10.3 mmol) was dissolved in anhydrous pyridine (30.0 mL) and cooled to 0° C. p-Toluenesulfonylchloride (5.89 g, 30.9 mmol) was then added in portions over a 10 minute period. The flask was then placed in a refrigerator at 4° C. for 48 h. The resulting solution was poured into 1 N HCl (300 mL), extracted with methylene chloride (3×200 mL) and the organics were dried over anhydrous sodium sulfate. The crude tosylate intermediate was dissolved in THF (50 mL), to which was added H2O (0.5 mL) followed by pTSA-H2O (1.03 mmol). Once the reaction was complete as determined by TLC, the mixture was poured into saturated aqueous NaHCO3 (150 mL) and extracted with methylene chloride (3×50 mL). The combined organics were dried over sodium sulfate. The crude alcohol was purified by flash chromatography on SiO2 eluting with acetone/chloroform (0-5-10% acetone) to give 2.71 g (71% for 2-steps) of (2S-trans)-2-hydroxymethyl-4-[[(4-methylphenyl)sulfonyl]oxy]-1-pyrrolidinecarboxylic acid, 1,1-dimethylethyl ester (2a(3)) as a clear oil:

reactant | p-Toluenesulfonylchloride | 30.9 mmol, 5.89 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | 1 N, 300 mL | Cl | ClH
reactant | pTSA H2O | 1.03 mmol | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | NaHCO3 | 150 mL | C(=O)(O)[O-].[Na+]
reactant | pyridine | 30.0 mL | N1=CC=CC=C1 | C5H5N
product | (2S-trans)-2-hydroxymethyl-4-[[(4-methylphenyl)sulfonyl]oxy]-1-pyrrolidinecarboxylic acid, 1,1-dimethylethyl ester | OC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)C(=O)OC(C)(C)C | C17H25NO6S
